US05817671
5-(N-[3-thiophenecarbonyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.061 mMol) 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.012 mL (0.080 mMol) 3-thiophenecarbonyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.061 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C14H20N4
reactant | 3-thiophenecarbonyl chloride | 0.080 mMol, 0.012 mL | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
product | 5-(N-[3-thiophenecarbonyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | S1C=C(C=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C19H22N4OS
